US05116402
Preparation of 2,2,2-trichloro-1-allyloxy-ethanol
A mixture of 7 g of chloral, 2.9 of allyl-alcohol and 15 ml of benzene is left standing for a night at room temperature, then distilled.

reactant | chloral | 7 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | allyl-alcohol | C(C=C)O | C3H6O
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 2,2,2-trichloro-1-allyloxy-ethanol | ClC(C(O)OCC=C)(Cl)Cl | C5H7Cl3O2
